US07777047B2
({[2,2-dimethoxy-1-methyl-1-(nitromethyl)ethyl]thio}methyl)benzene
A mixture of 1,1-dimethoxyacetone (5.00 ml), benzylmercaptan (5.50 ml), nitromethane (23 ml), ethylenediamine (3.00 ml) and acetonitrile (15 ml) was stirred at room temperature, and then overnight at 80° C. The reaction mixture was concentrated, and the obtained residue was subjected to silica gel column chromatography to give the title compound (5.81 g, yield 48%) as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:6, volume ratio).

reactant | 1,1-dimethoxyacetone | 5.00 ml | COC(C(=O)C)OC | C5H10O3
reactant | benzylmercaptan | 5.50 ml | C(C1=CC=CC=C1)S | C7H8S
reactant | nitromethane | 23 ml | [N+](=O)([O-])C | CH3NO2
reactant | ethylenediamine | 3.00 ml | C(CN)N | C2H8N2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | ({[2,2-dimethoxy-1-methyl-1-(nitromethyl)ethyl]thio}methyl)benzene | 5.81 g, yield 48% | COC(C(C[N+](=O)[O-])(C)SCC1=CC=CC=C1)OC | C13H19NO4S
